US07932271B2
[5-Chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylsulfonyl)methyl]pyridin-2-yl]amine
[5-Chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylsulfonyl)methyl]pyridin-2-yl](3,4-dimethoxybenzyl)amine (157 mg, 0.28 mmol) was dissolved in trifluoroacetic acid (5.0 ml). The resulting solution was stirred at 65° C. for 17 hours. After cooling, the reaction mixture was concentrated under reduced pressure. To the residue thus obtained was added a saturated aqueous solution of sodium bicarbonate. The resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried and concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (hexane:ethyl acetate=3:1) to give the title compound (114 mg, 99%) as a white solid.

reactant | [5-Chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylsulfonyl)methyl]pyridin-2-yl](3,4-dimethoxybenzyl)amine | 0.28 mmol, 157 mg | ClC=1C(=CC(=NC1)NCC1=CC(=C(C=C1)OC)OC)C(S(=O)(=O)C1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F | C27H22ClF3N2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 5.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [5-Chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylsulfonyl)methyl]pyridin-2-yl]amine | 114 mg, 99% | ClC=1C(=CC(=NC1)N)C(S(=O)(=O)C1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F | C18H12ClF3N2O2S
